US05371101
In the same manner as in Reference Example 5, starting from 1.15 g of (1S)-[(2R)-(2,4-difluorophenyl)-2-oxiranyl]ethanol and 1.27 g of 2-[4-(1,1,2,2-tetrafluoroethoxy)phenyl]-3(2H,4H)-1,2,4-triazolone, 1.20 g of 4-[(1R,2S)-2-(2,4-difluorophenyl)-2,3-epoxy-1-methylpropyl]-2-[4-(1,1,2,2-tetrafluoroethoxy)phenyl]-3(2H,4H)-1,2,4-triazolone was obtained as colorless needles.

reactant | (1S)-[(2R)-(2,4-difluorophenyl)-2-oxiranyl]ethanol | 1.15 g | FC1=C(C=CC(=C1)F)[C@]1(OC1)[C@H](C)O | C10H10F2O2
reactant | 2-[4-(1,1,2,2-tetrafluoroethoxy)phenyl]-3(2H,4H)-1,2,4-triazolone | 1.27 g | FC(C(F)F)(OC1=CC=C(C=C1)N1N=CNC1=O)F | C10H7F4N3O2
product | 4-[(1R,2S)-2-(2,4-difluorophenyl)-2,3-epoxy-1-methylpropyl]-2-[4-(1,1,2,2-tetrafluoroethoxy)phenyl]-3(2H,4H)-1,2,4-triazolone | 1.20 g | FC1=C(C=CC(=C1)F)[C@]1([C@@H](C)N2C(N(N=C2)C2=CC=C(C=C2)OC(C(F)F)(F)F)=O)CO1 | C20H15F6N3O3
